US09290468B2
Step 2: N-(2,3-dihydroxypropoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide
To a solution of N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide (229 mg, 0.41 mmol) in CH2Cl2 (10 mL) was added 1.0 N HCl (aq., 1.5 mL, 1.5 mmol). The mixture was stirred for 1 h and neutralized with saturated sodium bicarbonate (aq.). The aqueous layer was extracted by CH2Cl2 (10 mL×2). The combined organic layers were washed by water (30 mL×2) and brine (30 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (CH2Cl2/MeOH, 20:1, v/v) to afford the desired product (yellow solid, 170 mg, 67.9% yield for two steps). 1H NMR (400 MHz, DMSO-d6): δ 11.98 (s, 1H), 8.40 (s, 1H), 8.20 (s, 1H), 7.58 (d, 1H), 7.33 (d, 1H), 6.64 (m, 1H), 4.86 (m, 1H), 4.62 (m, 1H), 3.87 (m, 1H), 3.72 (m, 2H), 3.33 (m, 2H, covered by the peak of water). MS APCI (+) m/z: 522.9 [M+H].

reactant | N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide | 0.41 mmol, 229 mg | CC1(OCC(O1)CONC(=O)C1=CC2=C(N=NS2)C(=C1NC1=C(C=C(C=C1)I)F)F)C | C19H17F2IN4O4S
reactant | HCl | 1.5 mmol, 1.0 N, 1.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2,3-dihydroxypropoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide | 170 mg, 67.9% yield | OC(CONC(=O)C1=CC2=C(N=NS2)C(=C1NC1=C(C=C(C=C1)I)F)F)CO | C16H13F2IN4O4S
